US06197998B1
Ammonium hydrogencarbonate (1289 g) was dissolved in a mixture of 4000 ml of 28% aqueous ammonia and 1000 ml of distilled water at 35° C. To the solution were added 700 g (2.72 mol) of N-chloroacetyl-L-tyrosine and 700 ml of distilled water, followed by stirring at 40° C. for 5 hours. The reaction mixture was concentrated under reduced pressure to remove excess ammonia and then adjusted to pH 5.5 with concentrated hydrochloric acid at 45° C., followed by gradual cooling. After crystals were deposited, the mixture was ice-cooled and the crystals were isolated by filtration to give 600 g (489 g on anhydrous basis, 2.05 mol, 75.4%) of crude crystals of N-glycyl-L-tyrosine.

reactant | Ammonium hydrogencarbonate | 1289 g | C(O)([O-])=O.[NH4+]
reactant | N-chloroacetyl-L-tyrosine | 2.72 mol, 700 g | ClCC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C11H12ClNO4
solvent | ammonia | 4000 ml | N | H3N
solvent | water | 1000 ml | O | H2O
solvent | water | 700 ml | O | H2O
product | N-glycyl-L-tyrosine | NCC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C11H14N2O4
